US04374997
The acidic decarboxylation is conducted under mild conditions. For example, 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methylpyrrole-2-acetic acid is treated with refluxing trifluoroacetic acid to afford 5-(p-chlorobenzoyl)-4-methylpyrrole-2-acetic acid. Other acids may also be used. For example, those listed below in Table I.

reactant | 5-(p-chlorobenzoyl)-3-hydroxycarbonyl-4-methylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=C(C(=C(N2)CC(=O)O)C(=O)O)C)C=C1 | C15H12ClNO5
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | 5-(p-chlorobenzoyl)-4-methylpyrrole-2-acetic acid | ClC1=CC=C(C(=O)C2=C(C=C(N2)CC(=O)O)C)C=C1 | C14H12ClNO3
